US04935520
(i) Cetylphosphonic acid
To ethyl phosphite (1.6 g) dissolved in 5 ml of tetrahydrofuran was added sodium (180 mg), and the mixture was dissolved. To this solution was added cetyl tosylate (514 mg), and the mixture was refluxed for ten hours. The reaction solution was concentrated to dryness under reduced pressure. To the residue was added water, which was acidified with concentrated hydrochloric acid, followed by extraction with ether and dried on Na2SO4. From the extract was removed the solvent by evaporation, and the residue was subjected to a silica-gel (7 g) chromatography. Fractions eluted with chloroform were collected and concentrated to dryness. To the residue was added concentrated hydrochloric acid (3 ml), which was refluxed for 18 hours. The resulting precipitates were collected by filtration, followed by recrystallization from n-hexane to give 240 mg (60%) of colorless needles.

reactant | ethyl phosphite | 1.6 g | P(OCC)([O-])[O-]
reactant | sodium | 180 mg | [Na] | Na
reactant | cetyl tosylate | 514 mg | S(=O)(=O)(OCCCCCCCCCCCCCCCC)C1=CC=C(C)C=C1 | C23H40O3S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Cetylphosphonic acid | 240 mg, 60% | C(CCCCCCCCCCCCCCC)P(O)(O)=O | C16H35O3P
